US05624950
To a suspension of 2-methoxyphenylmagnesium bromide (prepared from 24.9 cm3 of 2-bromoanisole and 4.86 g of magnesium) in 200 cm3 of anhydrous tetrahydrofuran is added a solution of 8.0 g of (3aRS,6SR,7aSR)-6-acetoxymethyl-2-benzyl-4-perhydroisoindolone in 60 cm3 of anhydrous tetrahydrofuran. The reaction mixture is stirred for 20 hours at 20° C. and then cooled to +5° C. and treated with 120 cm3 of saturated aqueous ammonium chloride solution and 100 cm3 of ethyl acetate. After filtration of the mixture, the organic phase is washed with brine and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.06-0.200 mm, height 40 cm) in a mixture of 1,2-dichloroethane and methanol (95/5 by volume). After recrystallization in ethyl ether, 3.2 g of (3aRS,4RS,6SR, 7aSR)-2-benzyl-6-hydroxymethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol are obtained, in the form of a white solid melting at 110° C.

reactant | 2-methoxyphenylmagnesium bromide | 24.9 cm3, 4.86 g | COC1=C(C=CC=C1)[Mg]Br
reactant | (3aRS,6SR,7aSR)-6-acetoxymethyl-2-benzyl-4-perhydroisoindolone | 8.0 g | C(C)(=O)OCC1CC(C2CN(CC2C1)CC1=CC=CC=C1)=O | C18H23NO3
reactant | ammonium chloride | 120 cm3 | [Cl-].[NH4+]
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
product | (3aRS,4RS,6SR, 7aSR)-2-benzyl-6-hydroxymethyl-4-(2-methoxyphenyl)-4-perhydroisoindolol | 3.2 g | C(C1=CC=CC=C1)N1CC2CC(CC(C2C1)(O)C1=C(C=CC=C1)OC)CO | C23H29NO3
